.SUBCKT gf180mcu_fd_sc_mcu9t5v0__bufz_16 EN I Z VDD VSS
*.PININFO EN:I I:I Z:O VDD:P VDD:P VSS:P VSS:G
*.EQN Z=I
M_mn VSS EN NEN VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn8 NI_N NEN VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn21 NI_P EN NI_N VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn17 NI_N I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn17_9 VSS I NI_N VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn17_10 NI_N I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn17_9_17 VSS I NI_N VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn17_34 NI_N I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn17_9_41 VSS I NI_N VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn17_10_30 NI_N I VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn17_9_17_61 VSS I NI_N VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_1_25_34 Z NI_N VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_49_88 VSS NI_N Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_1_33 Z NI_N VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_99 VSS NI_N Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_1_25 Z NI_N VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_49 VSS NI_N Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_1 Z NI_N VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3 VSS NI_N Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_1_25_34_75 Z NI_N VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_49_88_82 VSS NI_N Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_1_33_198 Z NI_N VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_99_125 VSS NI_N Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_1_25_137 Z NI_N VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_49_181 VSS NI_N Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_1_65 Z NI_N VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_mn3_118 VSS NI_N Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_mp VDD EN NEN VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp7 NI_P EN VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp22 NI_N NEN NI_P VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp14 NI_P I VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp14_10 VDD I NI_P VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp14_11 NI_P I VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp14_10_8 VDD I NI_P VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp14_7 NI_P I VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp14_10_32 VDD I NI_P VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp14_11_55 NI_P I VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp14_10_8_20 VDD I NI_P VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_12_57_75 Z NI_P VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_56_111 VDD NI_P Z VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_12_106 Z NI_P VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_58 VDD NI_P Z VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_12_57 Z NI_P VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_56 VDD NI_P Z VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_12 Z NI_P VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4 VDD NI_P Z VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_12_57_75_85 Z NI_P VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_56_111_134 VDD NI_P Z VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_12_106_111 Z NI_P VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_58_95 VDD NI_P Z VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_12_57_97 Z NI_P VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_56_133 VDD NI_P Z VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_12_126 Z NI_P VDD VDD pmos_6p0 W=1.800000U L=0.500000U
M_mp4_153 VDD NI_P Z VDD pmos_6p0 W=1.800000U L=0.500000U
.ENDS
